US05015640
starting from 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile and ethyl 2-hydroxy-ethylcarbamate, there is obtained 2-ethoxycarbonylamino-ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate as a resinous product, mass spectrum m/e: M+ 353 (2), 308 (4), 237 (32), 194 (78), 116 (100), 88 (61);

reactant | 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C#N | C15H12N2
reactant | ethyl 2-hydroxy-ethylcarbamate | OCCNC(OCC)=O | C5H11NO3
product | 2-ethoxycarbonylamino-ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCCNC(=O)OCC)=N | C20H23N3O3
